Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[O:1]=[C:2]([H:3])/[C:4]([C:5][H:6])=[C:7](\[H:8])[C:9]([H:10])([H:11])[H:12]>>[H:6].[O:1]=[C:2]([H:3])[C:4](=[C:5])[C:7]([H:8])[C:9]([H:10])([H:11])[H:12],3.83942695329
[H:3].[O:1]=[C:2]=[C:4]([H:5])[C:6]#[C:7][C:8]([H:9])([H:10])[H:11]>>[O:1]=[C:2]([H:3])[C:4]([H:5])[C:6]#[C:7][C:8]([H:9])([H:10])[H:11],-2.41527682432
[C:6]([H:7])#[C:8][C:9]([H:10])([H:11])[H:12].[O:1][O:2][C:3]([H:4])[H:5]>>[O:1][O:2][C:3]([H:4])([H:5])/[C:6]([H:7])=[C:8]/[C:9]([H:10])([H:11])[H:12],-0.496853324882
[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([O:8][H:9])=[C:10]([H:11])[H:12]>>[H:12].[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([O:8][H:9])=[C:10][H:11],4.9894952343900005
[H:1][C:2][C:12]([H:13])([H:14])[H:15].[O:3]=[C:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11]>>[H:1][C:2]([O:3][C:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-1.8053559907700003
[C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]#[C:11][H:12].[H:1]>>[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]#[C:11][H:12],-5.9735484410899975
[O:1]=[C:2]1[C:3][C:4]([O:5][H:6])[C:7]1([H:8])[H:9]>>[O:1]=[C:2]=[C:3][C:4]([O:5][H:6])=[C:7]([H:8])[H:9],-0.706635337519
[H:11].[H:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])/[C:8]=[C:9](\[H:10])[C:12]([H:13])([H:14])[C:15]([H:16])([H:17])[H:18]>>[H:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8][C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[C:15]([H:16])([H:17])[H:18],-1.79102154005
[H:1][C:2]([H:3])[O:4]/[C:5]([H:6])=[C:7]/[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[C:5]([H:6])#[C:7][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14].[H:1][C:2]([H:3])=[O:4],-1.81718216979
[C:9]([H:10])([C:11])([H:14])[H:15].[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]([H:7])([H:8])[C:12][H:13]>>[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]([H:7])([H:8])/[C:9]([H:10])=[C:11]/[C:12]([H:13])([H:14])[H:15],-7.21162001385
[C:11]([H:12])([H:13])[H:14].[H:1][C:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])=[C:9][H:10]>>[H:1][C:2][O:3][C:4]([H:5])([H:6])/[C:7]([H:8])=[C:9](\[H:10])[C:11]([H:12])([H:13])[H:14],-4.51288857677
[H:1][C:2]#[C:3][O:4][C:5][C:8]([H:9])([H:10])[H:11].[O:6][H:7]>>[H:1][C:2]#[C:3][O:4][C:5]([O:6][H:7])[C:8]([H:9])([H:10])[H:11],-5.42111885284
[H:1][C:2]([H:3])=[C:4]([C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11])[O:12][C:13]([H:14])[H:15]>>[H:1][C:2]([H:3])[C@:4]1([C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11])[O:12][C:13]1([H:14])[H:15],0.0263143617894
[O:1]=[C:2]([C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[H:4].[O:1]=[C:2]([C:3][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],4.73015885484
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[O:12][C:13]([H:14])[H:15]>>[H:1].[O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[O:12][C:13]([H:14])[H:15],4.6390265825
[O:1]=[C:2]([H:3])[C:4][O:5][C:6][H:7]>>[C:2]([H:3])#[C:4][O:5][C:6][H:7].[O:1],3.5301210089
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])[H:8]>>[C:6]([H:7])[H:8].[H:1][O:2][C:3]([H:4])[H:5],5.032638305430001
[H:13].[H:1][C:2]=[C:3]([O:4][H:5])[C@:6]([H:7])([O:8][H:9])[C:10]([H:11])[H:12]>>[H:1][C:2]=[C:3]([O:4][H:5])[C@:6]([H:7])([O:8][H:9])[C:10]([H:11])([H:12])[H:13],-4.625482853
[H:1]/[C:2](=[C:3](/[H:4])[C:5]([H:6])([H:7])[C:8][C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16]>>[C:5]([H:6])([H:7])=[C:8][C:9]([H:10])([H:11])[H:12].[H:1][C:2](=[C:3][H:4])[C:13]([H:14])([H:15])[H:16],1.5705218024599998
[H:1][C:2]([H:3])[C@@:4]1([H:5])[C:6]([H:7])([H:8])[C:9]1([C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17]>>[H:1][C:2]([H:3])=[C:4]([H:5])[C:9]([C:6]([H:7])[H:8])([C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17],0.206813945961
[C:1]=[C:2]([H:3])[H:4].[C:5]([H:6])([H:7])[C:8][O:9][O:10]>>[C:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8][O:9][O:10],0.972635526041
[H:1][C:2]([H:3])([H:4])[C:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[C:15]([H:16])([H:17])[H:18]>>[H:1][C:2]([H:3])([H:4])/[C:5]=[C:6](\[H:7])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[C:15]([H:16])([H:17])[H:18].[H:8],1.87010038997
[C:1]#[C:2][H:3].[C:4]([H:5])([C:6]#[C:7][H:8])[O:9][H:10]>>[C:1]=[C:2]([H:3])[C@@:4]([H:5])([C:6]#[C:7][H:8])[O:9][H:10],-2.6187628833
[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]([H:7])([H:8])[O:9][C:10][C:11]([H:12])([H:13])[H:14]>>[H:1][C:2]=[C:4]([H:5])[C:6]([H:7])([H:8])[O:9][C:10][C:11]([H:12])([H:13])[H:14].[H:3],5.13554193723
[O:1]=[C:2]([H:3])[C:4][O:5][C:6]([H:7])[C:8]([H:9])([H:10])[H:11]>>[H:11].[O:1]=[C:2]([H:3])[C:4][O:5][C:6]([H:7])=[C:8]([H:9])[H:10],2.08839522888
[O:1]=[C:2]([H:3])[C:4]1[C:5][C@:6]1([H:7])[O:8][H:9]>>[O:1]=[C:2]([H:3])[C:4]#[C:5][C:6]([H:7])[O:8][H:9],-1.57206519055
[H:1][C:2]([O:3][C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[C:13]([H:14])([H:15])[H:16]>>[C:4]([H:5])([H:6])[H:7].[H:1][C:2](=[O:3])[C:8]([H:9])([H:10])[C:11]([H:12])[C:13]([H:14])([H:15])[H:16],0.51195651602
